US07842698B2
5-Methyl-2-trimethylsilanyl-furo[3,2-b]pyridine (Scheme 11)
To a degassed solution of 6-iodo-2-picolin-5-ol (855 mg; 3.64 mmol; 1.00 eq.) in triethylamine (20.00 mL) were added (trimethylsilyl)acetylene (1 g; 10.19 mmol; 2.80 eq.), cuprous iodide (90.07 mg; 0.47 mmol; 0.13 eq.) and dichlorobis(triphenyl phosphine) palladium(II) (229.82 mg; 0.33 mmol; 0.09 eq.). The solution was heated under reflux. After 3 h, the reaction was complete, and allowed to cool down to rt. The solution was filtered over celite (washed with AcOEt and MeOH). The solvents were removed. AcOEt and water were added and the combined organic layers were dried over magnesium sulfate, filtered and concentrated to give the expected compound. The crude was purified by short flash chromatography using cyclohexane then AcOEt/Cyclohexane 20/80 to afford 603 mg of the desired compound as a solid (Intermediate 5.1). Amount: 603 mg; Yield: 81%; Formula: C11H15NOSi; HPLC Purity: 93.14%; HPLC H2O TFA 0.1%-ACN TFA 0.05%): Rt (min); Area %=2.17 min; 93.14%; 1H NMR (CDCl3) δ 7.65 (d, 1H, J=8.5 Hz), 7.10 (s, 1H), 7.06 (d, 1H, J=8.5 Hz), 2.67 (s, 3H), 0.36 (s, 9H); LC-MS: M/Z ESI: Rt (min) 1.89 min, 206.06 (M+1).

reactant | 6-iodo-2-picolin-5-ol | 3.64 mmol, 855 mg, 1.00 eq. | IC1=C(C=CC(=N1)C)O | C6H6INO
reactant | (trimethylsilyl)acetylene | 10.19 mmol, 1 g, 2.80 eq. | C[Si](C)(C)C#C | C5H10Si
solvent | triethylamine | 20.00 mL | C(C)N(CC)CC | C6H15N
product | 5-Methyl-2-trimethylsilanyl-furo[3,2-b]pyridine | Yield: 81% | CC1=CC=C2C(=N1)C=C(O2)[Si](C)(C)C | C11H15NOSi
